US09029405B2
Step 1: methyl N-[1-(4-cyanophenyl)ethyl]-N-methylalaninate
In THF (50 mL), was added 4-acetylbenzonitrile (5.0 g; 34 mmol), methylamine (21 mL; 2.00 M solution in THF; 42 mmol) and titanium isopropoxide (5.6 mL; 19 mmol). The mixture was stirred at RT overnight. Sodium borohydride (5.5 g; 145 mmol) was added and the reaction mixture was let stirred at RT for 2 h. Ammonium hydroxide solution 25% (100 mL) was added and the reaction mixture was let stirred at RT for 1 h30. It was then filtered through a pad of celite, which was washed with EtOAc. The organic phase was washed with a saturated solution of NaHCO3, brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude was then dissolved in CH3CN (15 mL). Potassium carbonate (3.8 g; 27 mmol) and methyl 2-bromopropionate (1.5 mL; 13.7 mmol) were added at RT and the reaction mixture was stirred at RT for 1 h30. EtOAc was added and the organic phase was washed with water and brine, dried over MgSO4, filtered and concentrated. The resulting oil was purified by Flash Chromatography, affording the title compound as a colorless oil. 1H NMR (DMSO-d6, 300 MHz) δ 7.83-7.76 (m, 2H), 7.54 (t, J=8.7 Hz, 2H), 3.94-3.79 (m, 1H), 3.70-3.63 (m, 0.5H), 3.63-3.59 (m, 3H), 3.35-3.26 (m, 0.5H), 2.20 (s, 1.5H), 2.09 (s, 1.5H), 1.30-1.23 (m, 3H), 1.20 (d, J=7.0 Hz, 1.5H), 1.12 (d, J=7.0 Hz, 1.5H). LC/MS (Method B): 247.1 (M+H)+. HPLC (Method A) Rt 1.51 min (Purity: 70.1%).

reactant | 4-acetylbenzonitrile | 34 mmol, 5.0 g | C(C)(=O)C1=CC=C(C#N)C=C1 | C9H7NO
reactant | methylamine | 42 mmol, 2.00 M, 21 mL | CN | CH5N
reactant | Sodium borohydride | 145 mmol, 5.5 g | [BH4-].[Na+]
reactant | Ammonium hydroxide | 100 mL | [OH-].[NH4+]
reactant | Potassium carbonate | 27 mmol, 3.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-bromopropionate | 13.7 mmol, 1.5 mL | BrC(C(=O)OC)C | C4H7BrO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | titanium isopropoxide | 19 mmol, 5.6 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl N-[1-(4-cyanophenyl)ethyl]-N-methylalaninate | C(#N)C1=CC=C(C=C1)C(C)N([C@@H](C)C(=O)OC)C | C14H18N2O2
